US07294628B2
A) 1-Benzyl-4-[2-(trifluoromethyl)phenyl]-4-piperidinol.
A mixture of 1.52 g of magnesium in 25 ml of THF is admixed dropwise over 20 minutes with a solution of 14.25 g of 1-bromo-2-(trifluoromethyl)benzene in 15 ml of THF and the mixture is heated at reflux for 30 minutes. After it has cooled on an ice bath, it is admixed slowly with a solution of 10 g of 1-benzyl-4-piperidinone in 30 ml of THF and left with stirring at AT for 3 hours. The reaction mixture is poured into saturated aqueous ammonium chloride solution and extracted with AcOEt, the combined organic phases are washed with water and dried over Na2SO4 and the solvents are evaporated under vacuum. The residue is chromatographed on silica gel, eluting with a DCM/AcOEt (70/30; v/v) mixture. This gives 4.5 g of the expected product.

reactant | magnesium | 1.52 g | [Mg] | Mg
reactant | 1-bromo-2-(trifluoromethyl)benzene | 14.25 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | 1-benzyl-4-piperidinone | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-[2-(trifluoromethyl)phenyl]-4-piperidinol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC=C1)C(F)(F)F | C19H20F3NO
